US06057369
To a solution of 2.4 mL (18.49 mmol, 1.5 eq) of isopropylamine in 50 mL of dry THF at -78° C. under argon is added 9.3 mL (14.8 mmol, 1.2 eq) of 1.6 M BuLi in hexanes solution. This is stirred at -78° C. for 1 hour at which time 1.8 mL (13.56 mmol, 1.1 eq) of methyl isovalerate is added dropwise. This mixture is stirred at -78° C. for 1.5 hours at which time 2 g (12.33 mmol) of 5-phenylpentanal in 10 mL of dry THF is added dropwise. This is stirred at -78° C. for 1 hour, then allowed to warm slowly to 0° C. over 3 hours. The reaction is quenched with saturated NH4Cl solution and then partitioned between ether and saturated NH4Cl solution. The organics are dried (Na2SO4) and concentrated in vacuo. The product is purified by flash silica gel chromatography to afford methyl 3-hydroxy-3-isopropyl-7-phenylheptanoate in the form of a yellow oil. (0.88 g, 26%): 1H-NMR (300 MHz, CDCl3) δ (TMS) 0.95(t, 6H), 1.45(m, 3H), 1.6(m, 3H), 2.08(bs, 1H), 2.15(m, 1H), 2.35(t, 1H), 2.6(t, 2H), 3.68(s, 3H), 3.85(bm, 1H), 7.15(m, 3H), 7.25(m, 2H).

reactant | isopropylamine | 18.49 mmol, 2.4 mL, 1.5 eq | C(C)(C)N | C3H9N
reactant | BuLi | 14.8 mmol, 1.6 M, 9.3 mL, 1.2 eq | [Li]CCCC
reactant | methyl isovalerate | 13.56 mmol, 1.8 mL, 1.1 eq | C(CC(C)C)(=O)OC | C6H12O2
reactant | 5-phenylpentanal | 12.33 mmol, 2 g | C1(=CC=CC=C1)CCCCC=O | C11H14O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 3-hydroxy-3-isopropyl-7-phenylheptanoate | OC(CC(=O)OC)(CCCCC1=CC=CC=C1)C(C)C | C17H26O3
